US04521430
1.04 g of (+)-cis-2-(4-ethoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 20 ml of anhydrous benzene, and 1 ml of triethylamine is added thereto. A solution of 0.62 g of 2-chloro-4-nitrobenzoyl chloride in 2 ml of anhydrous benzene is added to the mixture under stirring, and said mixture is stirred at room temperature for 0.5 hour. After the reaction, the mixture is washed with water, dried and condensed to dryness. The residue is recrystallized from ethanol, whereby 0.94 g of (+)-cis-2-(4-ethoxyphenyl)-3-(2-chloro-4-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained as pale yellow needles. Yield: 61%.

reactant | (+)-cis-2-(4-ethoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.04 g | C(C)OC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C21H26N2O3S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-nitrobenzoyl chloride | 0.62 g | ClC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | (+)-cis-2-(4-ethoxyphenyl)-3-(2-chloro-4-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.94 g, Yield: 61% | C(C)OC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)=O)CCN(C)C)C=CC=C2 | C28H28ClN3O6S
